US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-ethyl-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and bromoethane (0.020 mL, 0.268 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0178 g, 29.7%). EI-MS m/z 317 (M+) Rt (1.53 rain).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | bromoethane | 0.268 mmol, 0.020 mL | BrCC | C2H5Br
product | 4-[cyano(diphenyl)methyl]-1-ethyl-1-azoniabicyclo[2.2.1]heptane bromide | 0.0178 g, 29.7% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C22H25N2.BrH/c1-2-24-15-13-21(18-24,14-16-24)22(17-23,19-9-5-3-6-10-19)20-11-7-4-8-12-20;/h3-12H,2,13-16,18H2,1H3;1H/q+1;/p-1
